US06066641
e) 8-Isopropyl-3-(4-picolyl)-xanthine
2.07 g of 6-amino-5-nitroso-1-(4-picolyl)-uracil, (1.34 g) of sodium bicarbonate and 2.0 ml of isobutyric anhydride in 40 ml of DMF were hydrogenated with 0.83 g of neutral Raney-nickel at room temperature. After 2 hours the hydrogenation was completed, and kept for 15 minutes at 60° C. The nickel was filtered off and the filtrate evaporated to dryness. The residue was heated under reflux in 40 ml of 1N NaOH and 150 ml of water for 20 minutes, 0.2 g of charcoal was added, the solution filtered, concentrated in vacuo to 50 ml and neutralized to pH 7.5. The solid was collected, washed and dried to give the title compound (1.48 g) as a white solid mp 305-7° C.

reactant | 6-amino-5-nitroso-1-(4-picolyl)-uracil | 2.07 g | NC1=C(C(NC(N1CC1=CC=NC=C1)=O)=O)N=O | C10H9N5O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | isobutyric anhydride | 2.0 ml | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
catalyst | Raney-nickel | 0.83 g | [Ni] | Ni
product | 8-Isopropyl-3-(4-picolyl)-xanthine | 1.48 g | C(C)(C)C1=NC=2N(C(NC(C2N1)=O)=O)CC1=CC=NC=C1 | C14H15N5O2
